Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan / Elavil
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with gastroparesis (currently with G-tube and NJ tube), 
eating disorder in remission, history of SIBO (previously 
treated with rifaximin), and bipolar disorder on lithium who 
presents with acute on chronic abdominal pain of similar 
character to the pain she was admitted for ___.  Patient 
was in her usual state of health when patient went to "___ and 
Ice", a restaurant, and feels as though she ate items that 
caused a gastroparesis flare.  While she was in the ED, she was 
noted to have essentially normal labs, including a CBC, 
chemistry.  No imaging was obtained.  Patient was admitted to 
medicine as the patient was reportedly not tolerating PO.  She 
received 5mg IV morphine.

After discussing with her PCP, ___ has a longstanding 
history of chronic abdominal pain attributed to gastroparesis.  
She also received prescription for oxycodone liquid from Dr. 
___.  During prior hospitalization, patient was 
requesting opiates, which were discontinued on discharge due to 
risk of opiate abuse.
 
Past Medical History:
Per OMR:
#Gastroparesis: gastric empyting study ___ shows ___ hour 
delayed emptying. First received G-J Tube ___, converted to 
G-tube ___. NJ tube placed ___ and on tube feeds currently. 

# Eating disorder NOS (thought to be etiology of gastroparesis). 
Treatment team includes psychiatrist, PCP, ___, and 
nutritionist.
# Small Intestinal Bacterial Overgrowth: treated with 
intermittent rifaximin  
# GERD  
# Bipolar disorder (prior episode of lithium toxicity requiring) 

 

 
Social History:
___
Family History:
Per OMR:

Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.

 
Physical Exam:
Admission:
Gen: well developed, well nourished, initially in NAD, however 
on susbequent exam tearful
HEENT: NCAT, oropharynx clear, has NJ feeding tube taped to 
face.  MMM
CV: RRR, no mrg
Resp: CTA ___
Abd: soft, nt, nd, no organomegaly, no ___ sign
Ext: no CCE
Psych: labile mood, speech normal
Neuro: no focal deficits, no facial droop, moves all 4 
extremities purposefully and without incident
 
Pertinent Results:
ADMISSION:

___ 01:30AM BLOOD WBC-10.0# RBC-3.93 Hgb-11.5 Hct-35.6 
MCV-91 MCH-29.3 MCHC-32.3 RDW-12.5 RDWSD-41.0 Plt ___
___ 01:30AM BLOOD Neuts-65.0 ___ Monos-7.9 Eos-3.9 
Baso-0.7 Im ___ AbsNeut-6.50*# AbsLymp-2.22 AbsMono-0.79 
AbsEos-0.39 AbsBaso-0.07
___ 01:30AM BLOOD Glucose-107* UreaN-16 Creat-0.8 Na-137 
K-3.9 Cl-103 HCO3-24 AnGap-14
___ 01:30AM BLOOD Albumin-4.___ with PMH notable for gastroparesis (currently with G-tube 
and NJ tube), eating disorder in remission, history of SIBO 
(previously treated with rifaximin), and bipolar disorder on 
lithium who presents with acute on chronic abdominal pain of 
similar character to the pain she was admitted for ___

#Abdominal Pain: attributed to gastroparesis. Has NJ tube which 
bypasses stomach as option for enteral feeding.  Patient states 
that she is able to take liquids, however on further questioning 
reports her pain is ___, and when offered tylenol states it is 
___.  Patient is very emotionally labile and refuses 
non-opiate pain medications.  States that other medications 
don't work when pain is this severe.  Given that patient has had 
this pain previously, and appears to have received oxycodone 
prescription within the last week, will not provide opiates.  
Patient then requested another physician, so social work was 
offered.  Additionally, patient had the option to speak with 
Patient Relations.  An extensive conversation was held with her 
PCP, who agrees with current plan to withhold opiates given 
likelihood of exacerbating gastroparesis, if in fact, she has 
true gastroparesis.   Patient was offered IV tylenol for 
analgesia. The following day she reported pain was improved, and 
she was tolerating a soft diet. 

CHRONIC ISSUES:
==============
# Eating Disorder: 
Her baseline weight is around 127 lbs and she denies a goal 
weight that her eating disorder team has agreed upon. She has  
been seeing Dr. ___ weekly weights and her dietitian, 
___, monthly.  The patient did not feel that her eating 
disorder was contributing to her current presentation.  

# Bipolar Disorder: 
Continued lithium.
  
# GERD: 
Continued omeprazole.  

# ADHD: 
Held Adderall as her version is non formulary. 

# Hypothyroidism: 
Continued levothyroxine

FEN: regular diet, low risk for DVT
Code: full
___ 
___: Mother 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. dextroamphetamine-amphetamine 10 mg oral DAILY 
3. ClonazePAM 3 mg PO QHS 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Lithium Carbonate 600 mg PO BID 
6. metaxalone 800 mg oral DAILY:PRN abd spasm 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Omeprazole 20 mg PO BID 
9. TraZODone 200 mg PO QHS 
10. Sumatriptan Succinate Dose is Unknown  PO DAILY:PRN migraine 


 
Discharge Medications:
1. ClonazePAM 3 mg PO QHS 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Lithium Carbonate 600 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. TraZODone 200 mg PO QHS 
8. Sumatriptan Succinate 25 mg PO DAILY:PRN migraine 
please continue same dose as previously 
9. dextroamphetamine-amphetamine 10 mg ORAL DAILY 
10. metaxalone 800 mg oral DAILY:PRN abd spasm 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroparesis

SECONDARY:
eating disorder NOS
bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for evaluation of abdominal pain.  
While you were here, you were noted to not be dehydrated and 
have no evidence of infection.  This was likely caused by an 
acute exacerbation of your chronic abdominal pain, which has 
previously been attributed to gastroparesis.  We did not provide 
you opiates as this may worsen gastroparesis.  Please follow up 
with your outpatient providers.
 
Followup Instructions:
___